US06982348B2
To a solution of (4RS,5SR)-5-(4-fluorophenyl)-4-((3-fluoro-4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one (4.0 g, 11.2 mmol) in ethanol (70 ml) was added 8N aqueous sodium hydroxide solution (7.0 ml, 56 mmol) and the mixture was heated under reflux for 6 hrs. The reaction solution was concentrated, diluted with water (300 ml) and extracted with ethyl acetate (300 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(3-fluoro-4-(trifluoromethyl)phenyl)-1-propanol (3.21 g, 87%).

reactant | (4RS,5SR)-5-(4-fluorophenyl)-4-((3-fluoro-4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one | 11.2 mmol, 4.0 g | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC(=C(C=C1)C(F)(F)F)F | C17H12F5NO2
reactant | sodium hydroxide | 56 mmol, 8N, 7.0 ml | [OH-].[Na+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(3-fluoro-4-(trifluoromethyl)phenyl)-1-propanol | 3.21 g, 87% | NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=C(C=C1)C(F)(F)F)F | C16H14F5NO
